US08729102B2
A) tert-butyl {(1S)-2-[4-(6-ethoxy-7-fluoropyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate
To a solution of tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate (580 mg) in THF (10 mL) was added dropwise a hexane solution (1.6 M, 2.2 mL) of n-butyllithium at −78° C. under an argon atmosphere, and the mixture was stirred for 1.5 hr. To the reaction mixture was added N-fluorobenzenesulfonimide (578 mg) at −78° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a pale-yellow solid (187 mg).

reactant | tert-butyl {(1S)-2-[4-(6-ethoxypyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate | 580 mg | C(C)OC=1C=CC=2N(C1)N=C(C2)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C23H29N3O4
reactant | hexane | 1.6 M, 2.2 mL | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | 578 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | tert-butyl {(1S)-2-[4-(6-ethoxy-7-fluoropyrazolo[1,5-a]pyridin-2-yl)phenoxy]-1-methylethyl}carbamate | 187 mg | C(C)OC=1C=CC=2N(C1F)N=C(C2)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C23H28FN3O4
